US04732998
(4-Methoxyphenoxymethylene)-bisphosphonic acid
Tetraethyl (4-methoxyphenoxymethylene)-bisphosphonate (4 g) was dissolved in trimethyl bromosilane (16.4 ml). After 3 hours at room temperature, the mixture was evaporated in vacuo. The remaining oil was heated with absolute ethanol (30 ml) on the steam bath for 2 hours. Evaporaton in vacuo and crystallization from ether gave the title compound as colourless crystals.

reactant | Tetraethyl (4-methoxyphenoxymethylene)-bisphosphonate | 4 g | COC1=CC=C(OC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)C=C1 | C16H28O8P2
solvent | trimethyl bromosilane | 16.4 ml | C[Si](Br)(C)C | C3H9BrSi
product | (4-Methoxyphenoxymethylene)-bisphosphonic acid | COC1=CC=C(OC(P(O)(O)=O)P(O)(O)=O)C=C1 | C8H12O8P2
